US09284286B2
To a solution of 3-fluoro-pyridine-2-carboxylic acid (0.50 g, 3.54 mmol) in dimethylformamide (6 ml) are added O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (3.41 g, 10.63 mmol) and N-methylmorpholine (1.56 ml, 14.2 mmol) at 0° C. followed by the addition of 3-methyl-butyl-amine (0.61 ml, 5.32 mmol). The reaction mixture is stirred at RT for 2 h. After completion of the reaction, the mixture is poured onto ice-water, extracted with EtOAc (3×50 ml). The combined organic layers are washed with brine (50 ml), dried over sodium sulfate and evaporated to dryness to yield the crude product, which is purified by column chromatography (silica gel, 50% EtOAc/hexane) affording 3-fluoro-N-(3-methyl-butyl)-pyridine-2-carboxylic acid amide (0.31 g, 1.47 mmol, 42%).

reactant | 3-fluoro-pyridine-2-carboxylic acid | 3.54 mmol, 0.50 g | FC=1C(=NC=CC1)C(=O)O | C6H4FNO2
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 10.63 mmol, 3.41 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-methylmorpholine | 14.2 mmol, 1.56 ml | CN1CCOCC1 | C5H11NO
reactant | 3-methyl-butyl-amine | 5.32 mmol, 0.61 ml | CC(CCN)C | C5H13N
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 3-fluoro-N-(3-methyl-butyl)-pyridine-2-carboxylic acid amide | 1.47 mmol, 0.31 g, 42% | FC=1C(=NC=CC1)C(=O)NCCC(C)C | C11H15FN2O
